US07981903B2
A solution of N1-[3-({8-fluoro-3-[(4-methylphenyl)sulfonyl]-7-oxo-3,7-dihydropyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-5-yl}amino)-4-(methyloxy)phenyl]-N1,N2,N2-trimethylglycinamide (0.800 g, 1.243 mmol) in tetrahydrofuran (75 ml) was treated with 2.0M methyl amine (3.11 ml, 6.21 mmol) and maintained at room temperature overnight. The reaction was taken to a residue under reduced pressure, dissolved in 1,4-dioxane (8 ml), and added to a microwave vial along with 2.0N NaOH (aq) (8 ml). The mixture was maintained under microwave heating at 120° C. for 12 minutes, cooled, and poured into saturated sodium bicarbonate and ethyl acetate. The organic layer was separated, dried over sodium sulfate, filtered, stripped onto celite, and purified by column chromatography to afford 2-[(2-{[5-[(N,N-dimethylglycyl)(methyl)amino]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide (0.140 g, 0.269 mmol, 21.64% yield) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) 6 ppm 11.47 (br. s., 1 H), 10.05 (s, 1 H), 8.54 (d, J=3.8 Hz, 1 H), 8.44 (br. s., 1 H), 8.14 (d, J=8.2 Hz, 7.59 (s, 1 H), 7.36-7.50 (m, 1 H), 6.93-7.06 (m, 3 H), 6.84 (br. s., 1 H), 6.35 (br.s., 1 H), 3.91 (s, 3 H), 3.11 (s, 3 H), 2.86 (s, 2 H), 2.77 (d, J=4.4 Hz, 3 H), 2.11 (s, 6 H). ESIMS (M+H)+=521.

reactant | N1-[3-({8-fluoro-3-[(4-methylphenyl)sulfonyl]-7-oxo-3,7-dihydropyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-5-yl}amino)-4-(methyloxy)phenyl]-N1,N2,N2-trimethylglycinamide | 1.243 mmol, 0.800 g | FC1=C2C(N3C(=NC2=CC=C1)C1=C(N=C3NC=3C=C(C=CC3OC)N(C(CN(C)C)=O)C)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C32H30FN7O5S
reactant | methyl amine | 6.21 mmol, 2.0M, 3.11 ml | CN | CH5N
reactant | NaOH | 2.0N, 8 ml | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(2-{[5-[(N,N-dimethylglycyl)(methyl)amino]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 0.269 mmol, 0.140 g, 21.64% yield | CN(CC(=O)N(C=1C=CC(=C(C1)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C)C | C26H29FN8O3
